** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sch
**.subckt bias-network VDD VSS
*.iopin VDD
*.iopin VSS
XM2 VREF VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XR1 VREF net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR2 net2 net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR3 net2 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR4 net4 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR5 net4 net5 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR6 net9 net10 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR7 net9 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR8 net7 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR9 net7 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR10 net5 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XM1 net11 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM3 net12 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
V1 VDD VSS 1.8
V6 VSS GND 0
Vmeas VDD net11 0
.save i(vmeas)
Vmeas1 VDD net12 0
.save i(vmeas1)
XR11 net10 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR12 net14 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR13 net14 net15 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR14 net16 net15 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR15 net16 net17 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR16 net21 VDD VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR17 net21 net20 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR18 net19 net20 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR19 net19 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR20 net17 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
**** begin user architecture code



.control
	DC V1 0 1.8 0.001
	plot i(Vmeas) i(Vmeas1)

.endc


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.end
